US07001897B2
To a solution of 1-(4-carbamoyl-1,3-thiazol-2-yl)-3-hydroxyazetidine (1.0 g, 5.02 mmol) (obtained as described in Reference Example 3(2)) in a mixture of methylene chloride (30 ml) and pyridine (5 ml) were added methanesulfonyl chloride (0.967 ml, 12.5 mmol) and triethylamine (1.75 ml, 12.5 mmol) in an ice bath. After stirring the mixture in the ice bath for 10 minutes, the mixture was stirred at room temperature for 2.5 hours. After checking the completion of the reaction, methanol (0.405 ml) was added to the reaction mixture in an ice bath and then the resulting mixture was stirred at room temperature for 30 minutes. The reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. To the residue was added isopropyl ether, and the mixture was filtered to afford 1-(4-carbamoyl-1,3-thiazol-2-yl)-3-methanesulfonyloxyazetidine (1.30 g, yield 94%) as a pale yellow solid.

reactant | 1-(4-carbamoyl-1,3-thiazol-2-yl)-3-hydroxyazetidine | 5.02 mmol, 1.0 g | C(N)(=O)C=1N=C(SC1)N1CC(C1)O | C7H9N3O2S
reactant | methanesulfonyl chloride | 12.5 mmol, 0.967 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 12.5 mmol, 1.75 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 0.405 ml | CO | CH4O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-carbamoyl-1,3-thiazol-2-yl)-3-methanesulfonyloxyazetidine | 1.30 g, yield 94% | C(N)(=O)C=1N=C(SC1)N1CC(C1)OS(=O)(=O)C | C8H11N3O4S2
